US07932277B2
(2S,4R)-1-tert-butyl 2-methyl 4-(4-chloroisoindoline-2-carbonyloxy)pyrrolidine-1,2-dicarboxylate (0.78 g, 1.8 mmol) was dissolved in a mixture of solvent THF:MeOH:water 2:2:1 (v/v) (5.4 mL), followed by addition of LiOH—H2O (0.15 g, 3.7 mmol). After stirring at rt for overnight, the reaction was concentrated to near dryness. The resulting solid residue was re-dissolved in water (40 mL) and washed with ether (2×30 mL). The aqueous layer was acidified with 1N HCl to pH˜2 and the combined EtOAc extracts (3×30 mL) was washed with brine and dried (Na2SO4), giving (2S,4R)-1-(tert-butoxycarbonyl)-4-(4-chloroisoindoline-2-carbonyloxy)pyrrolidine-2-carboxylic acid as a white foamy solid after evaporation of solvent.

reactant | (2S,4R)-1-tert-butyl 2-methyl 4-(4-chloroisoindoline-2-carbonyloxy)pyrrolidine-1,2-dicarboxylate | 1.8 mmol, 0.78 g | ClC1=C2CN(CC2=CC=C1)C(=O)O[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OC | C20H25ClN2O6
reactant | LiOH—H2O | 3.7 mmol, 0.15 g | O[Li].O
solvent | THF MeOH water | 5.4 mL | C1CCOC1.CO.O
product | (2S,4R)-1-(tert-butoxycarbonyl)-4-(4-chloroisoindoline-2-carbonyloxy)pyrrolidine-2-carboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)OC(=O)N1CC2=CC=CC(=C2C1)Cl)C(=O)O | C19H23ClN2O6
